US06762320B2
a) 1,2,4-Trifluoro-5-(4-nitro-phenoxymethyl)-benzene
Prepared in analogy to example 8 from 4-nitrophenol and 2,4,5-trifluoro-benzylbromide. Colorless solid. Yield=92%. MS: m/e=283.0 (M+).

reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2,4,5-trifluoro-benzylbromide | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
product | 1,2,4-Trifluoro-5-(4-nitro-phenoxymethyl)-benzene | Yield=92% | FC1=C(C=C(C(=C1)COC1=CC=C(C=C1)[N+](=O)[O-])F)F | C13H8F3NO3
